US05210092
To a mixture of 1-(4-methylphenyl)pyrrole-2-carbonitrile (546 mg) and aluminum chloride (532 mg) in dichloromethane (10 ml) was added t-butyl chloride (368 mg) in dichloromethane (10 ml) in one portion at 5° C. The mixture was stirred at the same temperature for 20 minutes. The reaction mixture was quenched with 10% hydrochloric acid. The separated organic layer was washed with 10% hydrochloric acid and water, successively, dried, and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel eluted by a mixture of ethyl acetate and n-hexane (1:6) to yield 4-t-butyl-1-(4-methylphenyl)pyrrole-2-carbonitrile (660 mg).

reactant | 1-(4-methylphenyl)pyrrole-2-carbonitrile | 546 mg | CC1=CC=C(C=C1)N1C(=CC=C1)C#N | C12H10N2
reactant | aluminum chloride | 532 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | t-butyl chloride | 368 mg | C(C)(C)(C)Cl | C4H9Cl
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4-t-butyl-1-(4-methylphenyl)pyrrole-2-carbonitrile | 660 mg | C(C)(C)(C)C=1C=C(N(C1)C1=CC=C(C=C1)C)C#N | C16H18N2
